US04338121
A mixture of 810 g of 4-chloro-3,5-dinitrotoluene, 384 g of dl-alpha-alanine, and 840 g of sodium bicarbonate was stirred and refluxed in 8 l of 95% ethanol for 18 hours. The mixture was diluted with water, filtered, and the ethanol was distilled off under reduced pressure. 1 l of water was added during the distillation in order to maintain the solids in solution. The aqueous solution was cooled by the addition of 2 kg of ice and acidified with concentrated hydrochloric acid (Congo Red) whilst stirring. The initially formed sticky precipitate crystallized on continued stirring to a dark-yellow solid which was filtered off, washed with water, and air-dried to give 2-(4-methyl-2,6-dinitroanilino)propionic acid (1 A), m.p.: 158°-161° C.

reactant | 4-chloro-3,5-dinitrotoluene | 810 g | ClC1=C(C=C(C=C1[N+](=O)[O-])C)[N+](=O)[O-] | C7H5ClN2O4
reactant | dl-alpha-alanine | 384 g | CC(C(=O)O)N | C3H7NO2
reactant | sodium bicarbonate | 840 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 8 l | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-(4-methyl-2,6-dinitroanilino)propionic acid | CC1=CC(=C(NC(C(=O)O)C)C(=C1)[N+](=O)[O-])[N+](=O)[O-] | C10H11N3O6
